US05185339
Trimethylsilyl cyanide (36.15 g, 48.6 ml, 0.36 moles) was added dropwise to a solution of 2-(o-chlorobenzyl)-pyridine-N-oxide (32.0 g, 0.15 moles) and triethylamine (22.13 g, 30.5 ml, 0.22 moles) in acetonitrile (100 ml) at 20° C. under a nitrogen atmosphere. After complete addition the reaction mixture was heated under reflux for 48 hours, cooled to room temperature and partitioned between methylene chloride and saturated sodium bicarbonate solution. The organic layer was washed with water and saturated sodium chloride solution and was then dried over anhydrous magnesium sulphate. Removal of the solvent gave an orange brown oil which was purified by column chromatography (silica gel eluted with hexane:ethyl acetate 4:1) to give 2-(o-chlorobenzyl)-6-cyanopyridine (11.5 g, 35%) as a pale yellow oil.

reactant | Trimethylsilyl cyanide | 0.36 moles, 48.6 ml, 36.15 g | C[Si](C)(C)C#N | C4H9NSi
reactant | 2-(o-chlorobenzyl)-pyridine-N-oxide | 0.15 moles, 32.0 g | ClC1=C(CC2=[N+](C=CC=C2)[O-])C=CC=C1 | C12H10ClNO
reactant | triethylamine | 0.22 moles, 30.5 ml, 22.13 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-(o-chlorobenzyl)-6-cyanopyridine | 11.5 g, 35% | ClC1=C(CC2=NC(=CC=C2)C#N)C=CC=C1 | C13H9ClN2
